US08492405B2
To a solution of ethyl 1-ethyl-4-[methyl(2-thienylsulfonyl)amino]-1H-pyrrole-2-carboxylate (11.9 g) in tetrahydrofuran (200 mL) was slowly added lithium aluminum hydride (1.46 g) in small portions. The reaction mixture was stirred at room temperature for 1 hr, and water (1.5 mL), 15% aqueous sodium hydroxide solution (1.5 mL) and water (4.5 mL) were successively added to the reaction mixture under ice-cooling. The reaction mixture was stirred for 1 hr, the insoluble material was filtered off, and the filtrate was concentrated. To a solution of the residue in tetrahydrofuran (200 mL) was added manganese dioxide (12 g), and the mixture was stirred at room temperature overnight. The manganese dioxide was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give N-(1-ethyl-5-formyl-1H-pyrrol-3-yl)-N-methylthiophene-2-sulfonamide (9.5 g, yield 91%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 1-ethyl-4-[methyl(2-thienylsulfonyl)amino]-1H-pyrrole-2-carboxylate | 11.9 g | C(C)N1C(=CC(=C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)OCC | C14H18N2O4S2
reactant | lithium aluminum hydride | 1.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.5 mL | O | H2O
reactant | sodium hydroxide | 1.5 mL | [OH-].[Na+]
reactant | water | 4.5 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | N-(1-ethyl-5-formyl-1H-pyrrol-3-yl)-N-methylthiophene-2-sulfonamide | 9.5 g, yield 91% | C(C)N1C=C(C=C1C=O)N(S(=O)(=O)C=1SC=CC1)C | C12H14N2O3S2
